US07399867B2
2-(4-Trifluoromethanesulfonyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
Charge a flame-dried flask with 1-bromo-4-trifluoromethanesulfonyl-benzene (500 mg, 1.73 mmol), bis(pinacolato)diboron (523 mg, 2.07 mmol), [1,1′-bis(diphehylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (42 mg, 0.05 mmol) and potassium acetate (467 mg, 5.2 mmol). Dissolve the solids with dimethylsulfoxide (9 mL) and heat to 80° C. under nitrogen for 4 hours. Cool the reaction to room temperature and dilute with benzene (50 mL). Wash the organic layer with water (20 mL) and brine (20 mL). Dry the organic layer with sodium sulfate, filter and concentrate in vacuo. Chromatograph the resultant oil on a SiO2 column eluting with ethyl acetate in hexanes (20%) to yield 560 mg of the title compound (96%).

reactant | 1-bromo-4-trifluoromethanesulfonyl-benzene | 1.73 mmol, 500 mg | BrC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F | C7H4BrF3O2S
reactant | bis(pinacolato)diboron | 2.07 mmol, 523 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.05 mmol, 42 mg | ClCCl | CH2Cl2
reactant | potassium acetate | 5.2 mmol, 467 mg | C(C)(=O)[O-].[K+]
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
solvent | dimethylsulfoxide | 9 mL | CS(=O)C | C2H6OS
product | 2-(4-Trifluoromethanesulfonyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 560 mg, 96% | FC(S(=O)(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(F)F | C13H16BF3O4S
